Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7]>>[C:4]([H:5])[O:6][H:7].[H:1][O:2][C:3],4.13211894143
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.417844988130001
[C:1][C:2]#[C:3][O:4]>>[C:1]#[C:2].[C:3]=[O:4],4.98196543976
[H:15].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.97943833911
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.1648889005400003
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12],4.798782811050001
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:10]([C:7]([H:8])[H:9])([H:11])[O:12][H:13]>>[H:1][O:2][C@@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[O:12][H:13],0.36714778273
[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],2.96539271061
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:10][C:11]([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-2.37833529638
[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.90600735089
[C:7]([H:8])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.5034189627900005
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.41850764868
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.87897149176
[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-6.945993111760001
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8],1.78947668875
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],1.17998778551
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[O:4])[C:10]([H:11])([H:12])[H:13],0.340086823509
[C:2]([H:3])[O:4][C:5]#[C:6][H:7].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7],-7.96479529989
[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],2.5268260212
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8],5.02604658795
[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([C:5]#[C:6])[O:8][H:9].[H:7],5.98293245311
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])=[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.24101407124
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.5265759586800005
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12][H:13].[H:14],5.254765974380001
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:11]([C:8]([O:7])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6]1\[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.0799961716302
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:9][H:10].[H:8],2.0889158555700003
[H:1][O:2][C:3]([O:5][H:6])=[C:7]([H:8])[H:9].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],-1.58050793949
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],2.54667151856
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.11884126064
[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][C:7]1[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:8][H:9],0.1244429431389999
